US04230716
3-(1-n-Butylimidazolidin-2,5-dion-4-yl)propionic acid
n-Butyl isocyanate (7.5 g, 0.075 mole) was added dropwise to a stirred solution of DL-glutamic acid (7.35 g, 0.05 mole) in aqueous sodium hydroxide (4.0 g, in 50 ml) at 0° C. The mixture was stirred at 0° C. for 2 hours then left to rise to room temperature overnight. The mixture was filtered and the filtrate acidified with concentrated hydrochloric acid (50 ml) and heated on a steam-bath for 30 minutes. The solution was cooled whence crystals separated which were collected at the pump and recrystallised from methanol to give prisms, m.p. 130.5° C. Yield 8.7 g=76%.

reactant | n-Butyl isocyanate | 0.075 mole, 7.5 g | C(CCC)N=C=O | C5H9NO
reactant | DL-glutamic acid | 0.05 mole, 7.35 g | NC(CCC(=O)O)C(=O)O | C5H9NO4
solvent | sodium hydroxide | 50 ml, 4.0 g | [OH-].[Na+]
product | 3-(1-n-Butylimidazolidin-2,5-dion-4-yl)propionic acid | C(CCC)N1C(NC(C1=O)CCC(=O)O)=O | C10H16N2O4
